US06391887B1
3-(Trifluoromethylsulfonyloxy)-2,5-dihydrofuran-4-carboxylic acid methyl ester
A solution of tetrahydrofuran-3-one-4-carboxylic acid-methyl ester (P. Dowd, S.-C. Choi, Tetrahedron 1991, 47, 4847) (2.88 g, 20 mmol) in dichloromethane (200 ml) is mixed at −78° C. with diisopropyl(ethyl)amine (3.96 ml, 23.2 mmol). After 10 minutes, trifluoromethanesulfonic acid anhydride (3.88 ml, 23.2 mmol) is slowly added in drops to it. The batch is warmed to room temperature, stirred for 2 hours and concentrated by evaporation. The residue is purified by column chromatography (SiO2) with ethyl acetate-hexane: 3.62 g (66%) of product.

reactant | tetrahydrofuran-3-one-4-carboxylic acid-methyl ester | 20 mmol, 2.88 g | COC(=O)C1C(COC1)=O | C6H8O4
reactant | diisopropyl(ethyl)amine | 23.2 mmol, 3.96 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic acid anhydride | 23.2 mmol, 3.88 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-(Trifluoromethylsulfonyloxy)-2,5-dihydrofuran-4-carboxylic acid methyl ester | COC(=O)C1=C(COC1)OS(=O)(=O)C(F)(F)F | C7H7F3O6S
